US05852008
contacting 2,3-dihydroxy naphthalene with 1,2-dibromoethane in the presence of base under conditions suitable to produce an ethylenedioxy derivative of naphthalene,

reactant | 2,3-dihydroxy naphthalene | OC1=CC2=CC=CC=C2C=C1O | C10H8O2
reactant | 1,2-dibromoethane | BrCCBr | C2H4Br2
product | naphthalene | C1=CC=CC2=CC=CC=C12 | C10H8
